US04742165
Ethyl-4-chloro-2-ethoxymethyleneacetoacetate
10 g (60.7 mM) of ethyl 4-chloroacetoacetate, 18 g (121 mM) of ethyl orthoformate and 25 g (245 mM) of acetic anhydride were stirred at 110° C. for 3 hours. Then, excessive ethyl orthoformate and acetic anhydride were distilled off under vacuum and the residue was recrystallized from hexane to obtain 12.1 g of a needle-like crystal with an yield of 90%.

reactant | ethyl 4-chloroacetoacetate | 60.7 mM, 10 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | ethyl orthoformate | 121 mM, 18 g | C(OCC)([O-])[O-]
reactant | acetic anhydride | 245 mM, 25 g | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl-4-chloro-2-ethoxymethyleneacetoacetate | 12.1 g, yield of 90% | C(C)OC(C(C(=O)CCl)=COCC)=O | C9H13ClO4
